US04535183
3,4-Dimethoxyphenol tetrahydropyranyl ether (47.6 g, 0.2 M) was lithiated with phenyllithium (from 21.02 ml bromobenzene and 2.89 g lithium), formylated by the addition of dry dimethylformamide (15 ml) and subsequently hydrolysed in an analogous manner to that described in example 2(E). The crude product was distilled under high vacuum to give 2,3-dimethoxy-6-hydroxybenzaldehyde as a yellow oil which solidified on standing. After trituration with 40/60 petrol and filtration the product had m.p. 53°-54° C. (Found: C, 59.18; H, 5.54. C9H10O4 requires C, 59.33; H, 5.53%). (C) 5-(2-Formyl-3-hydroxy-4-methoxyphenoxy)pentanoic acid

reactant | 3,4-Dimethoxyphenol tetrahydropyranyl ether | 0.2 M, 47.6 g | O1C(CCCC1)OC1=CC(=C(C=C1)OC)OC | C13H18O4
reactant | phenyllithium | 21.02 ml, 2.89 g | C1(=CC=CC=C1)[Li]
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2,3-dimethoxy-6-hydroxybenzaldehyde | COC1=C(C=O)C(=CC=C1OC)O | C9H10O4
